US09334279B2
To a 2 dram vial equipped with a stir bar was added 2-chloro-4-fluoropyridine (99 mg, 0.75 mmol) and Pd(dppf)Cl2 (27 mg, 0.038 mmol). The vial was sealed with a septum screwcap and then was placed under N2 atmosphere. To the vial was added thiazol-2-ylzinc(II) bromide in THF (3.0 mL, 1.5 mmol). The vial was placed in a 60° C. heating block with stirring for 3.5 h. The reaction solution was transferred to a 125 mL reparatory funnel and was diluted with EtOAc (50 mL). The solution was washed with water:brine (25 mL:25 mL); then brine (50 mL). The organic solution was dried over MgSO4; filtered; then concentrated in vacuo. The resulting residue was subjected to silica gel chromatography (hexanes:EtOAc) to afford 2-(4-fluoropyridin-2-yl)thiazole as a white solid (106 mg, 78%). 1H-NMR (400 MHz, CDCl3-d) δ 8.59 (dd, J=8.3, 5.5 Hz, 1H), 7.98-7.92 (m, 2H), 7.49 (d, J=3.3 Hz, 1H), 7.07 (ddd, J=8.2, 5.6, 2.5 Hz, 1H): MS: MS m/z 181.0 (M++1).

reactant | 2-chloro-4-fluoropyridine | 0.75 mmol, 99 mg | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | thiazol-2-ylzinc(II) bromide | [Br-].S1C(=NC=C1)[Zn+]
reactant | THF | 1.5 mmol, 3.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.038 mmol, 27 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-fluoropyridin-2-yl)thiazole | 106 mg, 78% | FC1=CC(=NC=C1)C=1SC=CN1 | C8H5FN2S
